US05153187
To a mixture of (1R, 5S, 6S)-2-[(4R)-pyrrolidine-2- thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2- em-3-carboxylic acid potassium salt (0.34 g), N,N-dimethylformamide (3 ml) and potassium carbonate (0.12 g) is added dropwise isobutyryloxymethyl iodide (0.27 g) under ice cooling. After stirring the mixture at the same temperature for 30 minutes, ethyl acetate (10 ml) is added to the reaction mixture, and the mixture is washed with water, and the organic layer is dried and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel flash column chromatography (eluent, chloroform: ethanol=20:1), followed by crystallization from isopropyl ether and ethyl acetate to give (1R, 5S, 6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester (0.12 g) as colorless needles.

reactant | (1R, 5S, 6S)-2-[(4R)-pyrrolidine-2- thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2- em-3-carboxylic acid potassium salt | 0.34 g | [K+].N1C(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)=S
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyryloxymethyl iodide | 0.27 g | C(C(C)C)(=O)OCI | C5H9IO2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (1R, 5S, 6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester | 0.12 g | C(C(C)C)(=O)OCOC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@@H]2CC(NC2)=S | C19H26N2O6S2
